US03975383
1-(1-chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio) azetidin-2-one (650mg) was dissolved in 1:1 THF/dioxan (12ml) under nitrogen. Triphenylphosphine (525 mg) and pyridine (158 mg) were added and the mixture heated at 55° for 15.5 hours. The reaction mixture was filtered and the filtrate evaporated. Dry toluene was added to the residue and the solution decanted from any solid and evaporated. Chromatography on silica afforded 1-(1-t-butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidin-2-one as an amorphous solid (470mg).

reactant | 1-(1-chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio) azetidin-2-one | 650mg | ClC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CCOC1OCCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C37H41ClN2O5S
reactant | Triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 158 mg | N1=CC=CC=C1 | C5H5N
solvent | THF dioxan | 12ml | C1CCOC1.O1CCOCC1
product | 1-(1-t-butoxycarbonyl-1-triphenylphosphoranylidenemethyl)-3-(triphenylmethylamino)-4-(4-tetrahydropyranyloxybut-2-ynylthio)azetidin-2-one | 470mg | C(C)(C)(C)OC(=O)C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C(C1SCC#CCOC1OCCCC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C55H55N2O5PS
